US08633001B2
Production of Compound 3, diethyl 2-benzyloxycarbonylamino-2-(t-butoxycarbonylmethyl)malonate
A suspension of diethyl 2-benzyloxycarbonylaminomalonate (5.0 g), potassium carbonate (2.7 g), potassium iodide (0.27 g), and t-butyl 2-bromoacetate (4.1 g) in DMF (50 mL) was stirred at 50° C. for 1 hour. The reaction mixture was cooled, and then poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, and then purification was performed with n-hexane/ethyl acetate (5:1), to obtain the title compound (6.9 g, yield: 99%) as colorless oil.

reactant | diethyl 2-benzyloxycarbonylaminomalonate | 5.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl 2-bromoacetate | 4.1 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.27 g | [I-].[K+]
product | diethyl 2-benzyloxycarbonylamino-2-(t-butoxycarbonylmethyl)malonate | 6.9 g, yield: 99% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(C(=O)OCC)CC(=O)OC(C)(C)C | C21H29NO8
